datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)C1=CC=CC=C1)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C([H])[NH]1 10=20;20,21=21"
"[O-:21][C:20]2([NH+:10]([H])C(C7=C2C=CC=C7)[H])OC>>[NH:10]([H])C(C(C=CC=C9)=C9[C:20](OC)=[O:21])[H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)[NH][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"[O:21]=[C:20](OCCCCCC)OC.[O-:10]CCCCCC>>CCCCCC[O:10][C:20]([O-:21])(OCCCCCC)OC 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[O-:10]C(CCC)C([H])/C([H])=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C([H])C([H])C(CCC)[O:10]1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[H][NH:10]C(C)C(C)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O]C(C)C([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C)C([H])[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C([H])[NH][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"CC[O:10][H].[H][O+:21]=[C:20]([S]CC)[S]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([S]CC)[S]CC 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CCCCCC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CCCCCC)[H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"[O:10]([Na])C([H])C([H])C([C:20]([H])=[O:21])C>>[O-:21][C:20]1([H])[O+:10]([Na])C([H])C([H])C1C 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C([H])C(C)C(CCC)[O:10]1>>[O-:10]C(CCC)C(C)C([H])C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)[H]>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)[H].[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"[NH:10](C)C(C)C(O)C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C(O)C(C)[NH+:10]1(C) 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)C)[H])[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)C)[H])[H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"CC[O:10][H].[H][NH+:21]=[C:20]([O]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21][H])([O]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[OH:10]C(CC)C(O)C([C:20](C)=[OH+:21])O>>[OH:21][C:20]1(C)[OH+:10]C(CC)C(O)C1O 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
